**********************************************************
*
* BCM61B
*
* Nexperia
*
* Matched double NPN/NPN Transistor
* IC   = 100 mA
* VCEO = 45 V 
* hFE  = 200 - 450 @ 5V/2mA
*
*
*
*
* Package pinning does not match Spice model pinning.
* Package: SOT 143
* 
* Package Pin 1:   Collector;Base   	TR;TR1,TR2
* Package Pin 2:   Collector        	TR1
* Package Pin 3;4: Emitter          	TR1;TR2
* 
*
* Extraction date (week/year): 02/2009
* Spicemodel does not include temperature dependency
*
**********************************************************
*#
* Please note: The following model is to be used twice in 
* schematic due to equality of both Transistors.
*
*
* Diode D1, Transistor Q2 and resistor RQ
* are dedicated to improve modeling of quasi
* saturation area and reverse mode operation
* and do not reflect physical devices.
*
.SUBCKT BCM61B 1 2 3
Q1 1 2 3 MAIN 0.9289 
Q2 11 2 3 MAIN 0.07107
RQ 1 11 324.8
D1 2 1 DIODE 
*
.MODEL MAIN NPN 
+ IS = 7.908E-015 
+ NF = 0.9767 
+ ISE = 5.297E-016 
+ NE = 1.344 
+ BF = 288 
+ IKF = 0.07763 
+ VAF = 50.6 
+ NR = 0.9772 
+ ISC = 2.622E-017 
+ NC = 1.227 
+ BR = 8.011 
+ IKR = 0.02229 
+ VAR = 39 
+ RB = 76 
+ IRB = 0.00015 
+ RBM = 1.2 
+ RE = 0.6235 
+ RC = 0.3131 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 1.24E-011 
+ VJE = 0.6708 
+ MJE = 0.348 
+ TF = 5.5E-010 
+ XTF = 30 
+ VTF = 2 
+ ITF = 0.4 
+ PTF = 0 
+ CJC = 3.264E-012 
+ VJC = 0.5079 
+ MJC = 0.42 
+ XCJC = 1 
+ TR = 1.3E-007 
+ CJS = 0 
+ VJS = 0.75 
+ MJS = 0.333 
+ FC = 0.78
.MODEL DIODE D 
+ IS = 7.905E-016 
+ N = 0.989 
+ BV = 1000 
+ IBV = 0.001 
+ RS = 2566 
+ CJO = 0 
+ VJ = 1 
+ M = 0.5 
+ FC = 0 
+ TT = 0 
+ EG = 1.11 
+ XTI = 3 
.ENDS
*
